US07425634B2
(72a) 2-((4S)-2,2-dimethyl-1,3-dioxolan-4-yl)ethanol
To (S)-(−)-1,2,4-butanetriol (30 g, 283 mmol), acetone (200 ml) and p-toluenesulfonic acid monohydrate (1.4 g, 7.36 mmol) were added and the mixture was stirred at room temperature overnight. To the reaction mixture, triethylamine (4 ml) was added and the mixture was concentrated. The residue was purified by silica gel column chromatography (silica gel 350 g, elution solvent: ethyl acetate/heptane=18/82→6/4) to obtain the title compound (30.2 g, yield: 73%) as a colorless oil.

reactant | (S)-(−)-1,2,4-butanetriol | 283 mmol, 30 g | C([C@H](CCO)O)O | C4H10O3
reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | p-toluenesulfonic acid monohydrate | 7.36 mmol, 1.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | 2-((4S)-2,2-dimethyl-1,3-dioxolan-4-yl)ethanol | 30.2 g, yield: 73% | CC1(OC[C@@H](O1)CCO)C | C7H14O3
